US09340538B2
Ethyl 4-(2-bromo-4-fluorophenyl)-6-(((S)-3-(hydroxymethyl)morpholino)methyl)-2-(thiazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate
Ethyl 4-(2-bromo-4-fluorophenyl)-6-(bromomethyl)-2-(thiazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate (1 g, 2 mmol) was reacted with (S)-morpholin-3-ylmethanol (0.24 g, 2 mmol) according to the procedure as described in Example 25, Step B to give the title compound as a pale yellow solid (0.6 g, 55%). The compound was characterized by the following spectroscopic data:

reactant | Ethyl 4-(2-bromo-4-fluorophenyl)-6-(bromomethyl)-2-(thiazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate | 2 mmol, 1 g | BrC1=C(C=CC(=C1)F)C1N=C(NC(=C1C(=O)OCC)CBr)C=1SC=CN1 | C17H14Br2FN3O2S
reactant | (S)-morpholin-3-ylmethanol | 2 mmol, 0.24 g | N1[C@H](COCC1)CO | C5H11NO2
product | Ethyl 4-(2-bromo-4-fluorophenyl)-6-(((S)-3-(hydroxymethyl)morpholino)methyl)-2-(thiazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate | 0.6 g, 55% | BrC1=C(C=CC(=C1)F)C1N=C(NC(=C1C(=O)OCC)CN1[C@H](COCC1)CO)C=1SC=CN1 | C22H24BrFN4O4S
